US08106194B2
Synthesis of 8-(4-bromo-2,6-dimethyl-phenyl)-2-methyl-4-(1-propyl-butylamino)-pyrrolo[1,2-a]pyrimidine-6-carboxylic acid amide hydrochloride (Compound 1-001)
To a suspension of 8-(4-bromo-2,6-dimethyl-phenyl)-2-methyl-4-(1-propyl-butylamino)-pyrrolo[1,2-a]pyrimidine-6-carboxylic acid amide (5.8 g) in ethanol (30 mL) was added 4 M HCl/ethyl acetate (3.7 mL) in an ice-cooling bath. The resulting solution was concentrated under reduced pressure. The residue was crystallized from ethyl acetate to give the title compound.

reactant | 8-(4-bromo-2,6-dimethyl-phenyl)-2-methyl-4-(1-propyl-butylamino)-pyrrolo[1,2-a]pyrimidine-6-carboxylic acid amide | 5.8 g | BrC1=CC(=C(C(=C1)C)C=1C=C(N2C1N=C(C=C2NC(CCC)CCC)C)C(=O)N)C | C24H31BrN4O
reactant | HCl ethyl acetate | 4 M, 3.7 mL | Cl.C(C)(=O)OCC
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 8-(4-bromo-2,6-dimethyl-phenyl)-2-methyl-4-(1-propyl-butylamino)-pyrrolo[1,2-a]pyrimidine-6-carboxylic acid amide hydrochloride | Cl.BrC1=CC(=C(C(=C1)C)C=1C=C(N2C1N=C(C=C2NC(CCC)CCC)C)C(=O)N)C | InChI=1S/C24H31BrN4O.ClH/c1-6-8-18(9-7-2)28-21-12-16(5)27-24-19(13-20(23(26)30)29(21)24)22-14(3)10-17(25)11-15(22)4;/h10-13,18,28H,6-9H2,1-5H3,(H2,26,30);1H
